US08633237B2
f) (S)-N-(5-(chloromethyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide
(S)-N-(5-(hydroxymethyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide (2.57 mmol, 692 mg) was dissolved in DCM (10 mL), thionyl chloride (5.14 mmol, 0.373 mL, 611 mg) added and the solution stirred at room temperature. After 45 min the mixture was concentrated then azeotroped with dichloromethane (4×10 mL) to give a yellow oil. This was used immediately in step f.

reactant | (S)-N-(5-(hydroxymethyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 2.57 mmol, 692 mg | OCC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C | C13H19NO3S
reactant | thionyl chloride | 5.14 mmol, 0.373 mL, 611 mg | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-N-(5-(chloromethyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | ClCC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C | C13H18ClNO2S
